US08455477B2
To a solution of 2-fluoro-4-iodo-6-methoxypyridine (7.1 g, 28 mmol) in n-butanol (64 ml) was added 28% solution of ammonium hydroxide (20 ml, 140 mmol). The reaction mixture was heated to 120° C. After 16 hours LRMS indicated incomplete conversion to product. Additional 28% solution of ammonium hydroxide (20 ml, 140 mmol) was added and the reaction mixture was reheated to 120° C. After 16 h LRMS indicated incomplete conversion to product. Additional 28% solution of ammonium hydroxide (8.0 ml, 56 mmol) was added and the reaction mixture was reheated to 120° C. After 24 h the reaction mixture was cooled, partially concentrated, diluted with ethyl ether, washed with water, then dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (ethyl ether/isohexane gradient) to give 4-iodo-6-methoxypyridin-2-amine LRMS (ESI) calculated for C6H8IN2O [M+H]+, 251.0 found 250.9.

reactant | 2-fluoro-4-iodo-6-methoxypyridine | 28 mmol, 7.1 g | FC1=NC(=CC(=C1)I)OC | C6H5FINO
reactant | ammonium hydroxide | 140 mmol, 20 ml | [OH-].[NH4+]
reactant | ammonium hydroxide | 140 mmol, 20 ml | [OH-].[NH4+]
reactant | ammonium hydroxide | 56 mmol, 8.0 ml | [OH-].[NH4+]
solvent | n-butanol | 64 ml | C(CCC)O | C4H10O
product | 4-iodo-6-methoxypyridin-2-amine | IC1=CC(=NC(=C1)OC)N | C6H7IN2O
